US05516774
10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine
A mixture of 30.6 g of 1-(2-nitrobenzyl)-2-pyrrolecarboxaldehyde and 3.06 g of 10% Pd/C in 400 ml of ethyl acetate and 400 ml of ethyl alcohol is hydrogenated over 18 hours. The reaction mixture is filtered through diatomaceous earth and the filtrate is treated with activated carbon and filtered through diatomaceous earth. The filtrate is concentrated in vacuo to give a residue which is dissolved in methylene chloride containing ethyl alcohol. The solution is passed through a pad of silica gel and the pad washed with a 7:1 hexane-ethyl acetate solution to give 16.31 g of the desired product as solid, m.p. 145°-148° C.

reactant | 1-(2-nitrobenzyl)-2-pyrrolecarboxaldehyde | 30.6 g | [N+](=O)([O-])C1=C(CN2C(=CC=C2)C=O)C=CC=C1 | C12H10N2O3
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl alcohol | 400 ml | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 3.06 g | [Pd] | Pd
product | 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 16.31 g | C=1C=CN2C1CNC1=C(C2)C=CC=C1 | C12H12N2
